US06943183B2
2-{[(2-{[(1S)-2-(1H-Imidazol-1-yl)-1-phenylethyl]oxy}-5-oxo-5,6,7,8-tetrahydro-1-naphthalenyl)methyl]sulfanyl}-N-(2-methoxyethyl)benzamide (Compound 260)
Using the method in Example 172, 2-{[(2-{[(1S)-2-(1H-imidazol-1-yl)-1-phenylethyl]oxy}-5-oxo-5,6,7,8-tetrahydro-1-naphthalenyl)methyl]sulfanyl}benzoic acid (50 mg, 0.10 mmol, 0.20M in DMF) and 2-methoxyethylamine (23 mg, 0.30 mmol, 0.6M in DMF) were combined to give 43 mg of the desired compound: Low resolution mass spectrum (LC-MS, APCI) m/z 556 [M+H]+.

reactant | 2-{[(2-{[(1S)-2-(1H-imidazol-1-yl)-1-phenylethyl]oxy}-5-oxo-5,6,7,8-tetrahydro-1-naphthalenyl)methyl]sulfanyl}benzoic acid | 0.10 mmol, 0.20M, 50 mg | N1(C=NC=C1)C[C@H](C1=CC=CC=C1)OC1=C(C=2CCCC(C2C=C1)=O)CSC1=C(C(=O)O)C=CC=C1 | C29H26N2O4S
reactant | 2-methoxyethylamine | 0.30 mmol, 0.6M, 23 mg | COCCN | C3H9NO
product | 2-{[(2-{[(1S)-2-(1H-Imidazol-1-yl)-1-phenylethyl]oxy}-5-oxo-5,6,7,8-tetrahydro-1-naphthalenyl)methyl]sulfanyl}-N-(2-methoxyethyl)benzamide | 43 mg | N1(C=NC=C1)C[C@H](C1=CC=CC=C1)OC1=C(C=2CCCC(C2C=C1)=O)CSC1=C(C(=O)NCCOC)C=CC=C1 | C32H33N3O4S
